US08293926B2
Synthesis of (R)-4-(4-chlorophenyl)pyrrolidin-2-one
Under a nitrogen atmosphere, to methanol (220 ml) was added methyl (3S,4R)-4-(4-chlorophenyl)-2-oxopyrrolidine-3-carboxylate (28.0 g, 110 mmol), and 2 mol/L sodium hydroxide aqueous solution (66 ml) was dropped over a period of 1 hour. After completion of dropping, the mixture was further stirred for 1 hour, and neutralized with 2 mol/L hydrochloric acid (71 ml), and methanol was distilled off under reduced pressure. The residue was extracted with ethyl acetate (150 ml×2), to obtain an ethyl acetate solution containing (3S,4R)-4-(4-chlorophenyl)-2-oxopyrrolidine-3-carboxylic acid. This solution was dropped over a period of 4 hours into xylene (150 ml) heated at 130 to 140° C. while distilling off ethyl acetate. After completion of the reaction, xylene (100 ml) was added, and the mixture was filtrated and concentrated under reduced pressure. Crystallization from xylene/heptanes was performed to obtain 19.3 g (98.6 mmol) of a title compound. Yield: 90%. The spectrum data corresponded to the value in non-patent document 1. The optical purity of the resultant title compound was measured by HPLC to find a value of 99% ee.

reactant | methyl (3S,4R)-4-(4-chlorophenyl)-2-oxopyrrolidine-3-carboxylate | 110 mmol, 28.0 g | ClC1=CC=C(C=C1)[C@H]1[C@@H](C(NC1)=O)C(=O)OC | C12H12ClNO3
reactant | sodium hydroxide | 2 mol/L, 66 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 mol/L, 71 ml | Cl | ClH
reactant | (3S,4R)-4-(4-chlorophenyl)-2-oxopyrrolidine-3-carboxylic acid | ClC1=CC=C(C=C1)[C@H]1[C@@H](C(NC1)=O)C(=O)O | C11H10ClNO3
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | methanol | CO | CH4O
solvent | methanol | 220 ml | CO | CH4O
product | (R)-4-(4-chlorophenyl)pyrrolidin-2-one | 98.6 mmol, 19.3 g, Yield: 90% | ClC1=CC=C(C=C1)[C@H]1CC(NC1)=O | C10H10ClNO
